US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-{1-[3-(dimethylamino)propanoyl]pyrrolidin-3-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (75 mg, 0.183 mmol) was coupled to N,N-dimethyl-beta-alanine hydrochloride (29 mg, 0.189 mmol) following the procedure described in step 1 of Example 120. The product was purified via HPLC using a Sunfire Prep C18 OBD 5 micron, 30×75 mm column. The compound was eluted using a gradient 10-70% acetonitrile/water with 0.1% TFA over 20 minutes to yield (17 mg, 18%) title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.53 (s, 1 H), 7.92 (s, 1 H), 7.79 (d, 1 H), 7.58 (s, 1 H), 7.36-7.32 (m, 4 H), 7.14 (d, 1 H), 6.68 (d, 1 H), 5.64 (s, 2 H), 4.00-3.30 (m, 9 H), 2.45-2.05 (m, 2H), 2.07 (s, 6 H); ES-MS m/z 509.2 [M+H]+, HPLC RT (min) 2.11.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.183 mmol, 75 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | N,N-dimethyl-beta-alanine hydrochloride | 0.189 mmol, 29 mg | Cl.CN(CCC(=O)O)C
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{1-[3-(dimethylamino)propanoyl]pyrrolidin-3-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 17 mg, 18% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CC2)C(CCN(C)C)=O | C29H32N8O
